US07157464B2
4-Chloro-3-methyl-5-trifluoromethyl-1H-pyrazole (610 mg, 3.3 mmol) was taken into dry CH3CN (15 ml), dry potassium carbonate (1.15 g) was added to this and the resulting mixture stirred at room temperature for 1 h under nitrogen. Bromo-(3-methoxy-phenyl)-acetic acid methyl ester (900 mg, 2.8 mmol) in CH3CN (5 ml) was then added to the mixture through a syringe. The reaction was then heated at reflux for 10 h, cooled and then filtered through a celite filter bed. The filtrate was concentrated to obtain (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-acetic acid ethyl ester that was purified by column chromatography on silica (pet ether/ethyl acetate)

reactant | 4-Chloro-3-methyl-5-trifluoromethyl-1H-pyrazole | 3.3 mmol, 610 mg | ClC=1C(=NNC1C(F)(F)F)C | C5H4ClF3N2
reactant | potassium carbonate | 1.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | Bromo-(3-methoxy-phenyl)-acetic acid methyl ester | 2.8 mmol, 900 mg | COC(C(C1=CC(=CC=C1)OC)Br)=O | C10H11BrO3
solvent | CH3CN | 5 ml | CC#N | C2H3N
solvent | CH3CN | 15 ml | CC#N | C2H3N
product | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-(3-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(C(C1=CC(=CC=C1)OC)N1N=C(C(=C1C)Cl)C(F)(F)F)=O | C16H16ClF3N2O3
